US06962923B2
2-{[5-amino-1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-4-(4-methylphenyl)-1H-pyrazol-3-yl]oxy}ethyl acetate
2-Bromoethyl acetate (0.29 g) was added dropwise over 1 minute to a stirred suspension of 5-amino-1-{2-[(tert-butyl)dimethylsilyl]oxyethyl}-4-(4-methylphenyl)-1-H-pyrazol-3-ol (0.60 g) (Preparation 31) and caesium carbonate (1.69 g) in anhydrous dimethylformamide (10 ml), under a nitrogen atmosphere, at room temperature. The resulting mixture was stirred overnight. The reaction was quenched by adding 1.0M citric acid (40 ml) and the resulting aqueous mixture was extracted with ethyl acetate (2×50 ml). The combined organic extracts were washed with water (40 ml), brine (40 ml), dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography using a Biotage Flash™ 40 column at 10 psi, with a step gradient of ethyl acetate/hexane (1:3 to 1:2) to give the title compound as a yellow oil (0.35 g).

reactant | 2-Bromoethyl acetate | 0.29 g | C(C)(=O)OCCBr | C4H7BrO2
reactant | 5-amino-1-{2-[(tert-butyl)dimethylsilyl]oxyethyl}-4-(4-methylphenyl)-1-H-pyrazol-3-ol | 0.60 g | NC1=C(C(=NN1CCO[Si](C)(C)C(C)(C)C)O)C1=CC=C(C=C1)C | C18H29N3O2Si
reactant | caesium carbonate | 1.69 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-{[5-amino-1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-4-(4-methylphenyl)-1H-pyrazol-3-yl]oxy}ethyl acetate | 0.35 g | C(C)(=O)OCCOC1=NN(C(=C1C1=CC=C(C=C1)C)N)CCO[Si](C)(C)C(C)(C)C | C22H35N3O4Si
